US08802688B2
Step 1: 2-chloro-6-hydroxyquinoline-3-carbaldehyde
To a −78° C. mixture of 2-chloro-6-methoxyquinoline-3-carbaldehyde (4.64 g, 20.9 mmol) in dichloromethane (130 mL) was added boron tribromide (4.0 mL, 42 mmol). The mixture was allowed to warm to room temperature and stir for 4 hours. The reaction was neutralized by the careful addition of saturated aqueous sodium bicarbonate. The mixture was then extracted with 2-methyl tetrahydrofuran (3×). The combined organics were filtered, and the filtrate was washed with saturated aqueous sodium bicarbonate (3×) and once with brine. The organics were dried over sodium sulfate, filtered, and concentrated to a yellow solid. The solid was partially dissolved in 2-methyl tetrahydrofuran and filtered. The filtrate was concentrated to a solid and again partially dissolved in 2-methyl tetrahydrofuran, filtered, and concentrated. Purification by flash column chromatography (10-100% ethyl acetate/heptanes) gave the title compound (2.65 g, 61%) as a pale yellow solid. +ESI (M+H) 208.1; 1H NMR (400 MHz, CDCl3, δ): 10.54 (s, 1 H), 8.59 (s, 1 H), 7.98 (d, J=9.17 Hz, 1 H), 7.47 (dd, J=9.17, 2.73 Hz, 1 H), 7.25 (d, J=2.93 Hz, 1 H), 5.57 (br. s., 1 H).

reactant | 2-chloro-6-methoxyquinoline-3-carbaldehyde | 20.9 mmol, 4.64 g | ClC1=NC2=CC=C(C=C2C=C1C=O)OC | C11H8ClNO2
reactant | boron tribromide | 42 mmol, 4.0 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
product | 2-chloro-6-hydroxyquinoline-3-carbaldehyde | 2.65 g, 61% | ClC1=NC2=CC=C(C=C2C=C1C=O)O | C10H6ClNO2
